US04981992
In a 100 ml-volume stainless steel autoclave whose atmosphere had been displaced with nitrogen was added a solution of 2.01 g (10 mmole) of ethyl 2-(N-acetylamino)methyl-3-oxobutanoate and 84.5 mg (0.05 mmole) of Ru2Cl4 ((+)-BINAP)2NEt3 in 18 ml of methylene chloride, and a reaction was conducted at 35° C. under a hydrogen pressure of 70 kg/cm2 for 17 hours. The reaction mixture was taken out, concentrated under reduced pressure of 20 mmHg, and purified by silica gel column chromatography using a 7/3 (by volume) mixed solvent of hexane and isopropanol as an eluent to obtain 1.95 g (yield: 96.5%) of ethyl (2S, 3R)-2-(N-acetylamino)methyl-3-hydroxybutanoate having an optical purity of 98 %ee. The optical purity of the product was determined by HPLC in the same manner as in Example 1, except for using A-002-3 S-3 120A produced by Yamamura Kagaku Kenkyusho K.K. as a column and a 800/200/1 (by volume) mixture of hexane, tetrahydrofuran and methanol as an eluent.

reactant | ethyl 2-(N-acetylamino)methyl-3-oxobutanoate | 10 mmole, 2.01 g | C(C)(=O)NCC(C(=O)OCC)C(C)=O | C9H15NO4
solvent | methylene chloride | 18 ml | C(Cl)Cl | CH2Cl2
product | ethyl (2S, 3R)-2-(N-acetylamino)methyl-3-hydroxybutanoate | 1.95 g, yield: 96.5% | C(C)(=O)NC[C@H](C(=O)OCC)[C@@H](C)O | C9H17NO4
